US04859229
using 3-(4-bromo-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione with potassium carbonate and methyl iodide in acetonitrile there is obtained 3-(4-bromo-2-fluoro-5-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione. m.p. 154° C.;

reactant | 3-(4-bromo-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | BrC1=CC(=C(C=C1O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C12H7BrF4N2O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | CI | CH3I
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(4-bromo-2-fluoro-5-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | BrC1=CC(=C(C=C1OC)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C13H9BrF4N2O3
